* SURROUND based on Fostex FF165WK and SEAS 19TTF1

* amp *
Eg 1 0 2.83

** midbass **

* bsc *
Lbsc 1 2 0.8m .22
Rbsc 1 2 3.3

* low pass *
Llp  2 3 .6m .21
Clp  3 0 5.6u

* imp comp *
Cnw  3 4 1.2u
Rnw  4 0 6.8

* driver *
LeW  3 5 .056m 6.5

TlW  5 0 7.227

TrW   6 0 1
RrmsW 6 0 1.4039
CmmsW 6 0 9.5m
LcmsW 6 0 1.068m
GlW   6 0 132cm²

GrW   7 0 132cm²
Box   7 8 9L
ZrW1  8 9 132cm² ai
ZrW1  9 0 132cm² ai

** tweeter **

Ratt 1 10 5.6
Chp 10 11 3.3u
Lhp 11 0 .15m .09

*Cnt 11 12 2.2u
*Rnt 12 0 4.7

LeT   11 13 0.05m 4.8
TlT   13 0 3.5

TrT   14 0 1
RrmsT 14 0 .50
CmmsT 14 0 0.25m
LcmsT 14 0 .23m
GlT   14 0 7.6cm²

GrT   15 0 7.6cm²
ZrT1  15 16 7.6cm² ai
ZrT2  16 0 7.6cm² ai


* set logscale x
* set mxtics
* set mytics
* set style line 12 lc rgb '#ddccdd' lt 1 lw 1.5
* set style line 13 lc rgb '#ddccdd' lt 1 lw 0.5
* set grid xtics mxtics ytics mytics back ls 12, ls 13
* plot [16:40000] [40:100] 'plop.txt' using 1:2 title 'sum' with lines, 'plop.txt' using 1:3 title 'woofer' with lines, 'plop.txt' using 1:4 title 'tweeter' with lines

! frequency response /1m
. F .
. 1 2 FREEAIR
. DUP IZrW1 IZrT1 - * DBSPL .
. DUP IZrW1 * DBSPL .
.     IZrT1 * DBSPL .

!phase
*. F .
*. IZrW1 ARG .
*. IZrT1 ARG .

! power dissipation in resistors
*. F .
*. IRbsc v1 v2 - * REAL ABS .
*. IRnw v4 v0 - *  REAL ABS .

! total impedance
*. F .
*. v1 v0 - IEg / DUP ABS . ARG DEG .

! phase delay
*. F DUP .
*. 1 SWAP / 1000 * DUP NEG . .
*. 
*. IZrW1 ARG PDELAY 1000 * .
*. IZrT1 ARG PDELAY 1000 * .
*. IZrW1 ARG .

! ** group delay **
*. >>> F <<< F - 2 PI * * 1000 /
*. DUP
*! freq
*. F DUP .
*! -1 cycle and 1 cycle
*. 1 SWAP / 1000 * DUP NEG . .
*! group delay of the midbass driver
*. >>> IZrW1 ARG <<< IZrW1 ARG ANGLE SWAP / NEG .
*! group delay of the HF driver
*. >>> IZrT1 ARG <<< IZrT1 ARG ANGLE SWAP / NEG .
*! phase of the midbass driver
*. IZrW1 ARG .
